US07897631B2
4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride (0.050 g, 0.269 mmol) was reacted with (3-azido-propyl) benzene (0.044 g, 0.273 mmol) following the general procedure for click reactions outlined above to produce 4-{3-[1-(3-Phenyl-propyl)-1H-[1,2,3]triazol-4-yl]-propyl}-1H-imidazol-2-ylamine hydrochloride (0.0318 g, 34%) as a pale yellow solid. 1H NMR (300 MHz, DMSO) δ 7.91 (s, 1H), δ 7.29-7.17 (m, 5H), δ 6.62 (s, 2H), δ 6.57 (s, 1H), δ 4.29 (t, 2H), δ 2.59 (t, 2H), δ 2.53 (t, 2H), δ 2.43 (t, 2H) δ 2.09 (m, 2H), δ 1.83 (m, 2H) ppm; 13C NMR (75 MHz, DMSO) δ 163.6, 156.2, 155.1, 147.4, 146.9, 141.4, 129.1, 127.1, 126.7, 122.6, 109.4, 49.4, 32.6, 32.0, 28.1, 24.9, 24.2 ppm; HRMS (ESI) calcd for C17H22N6 (M+) 310,1978. found 310.1977.

reactant | 4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.269 mmol, 0.050 g | Cl.C(CCC#C)C=1N=C(NC1)N
reactant | (3-azido-propyl) benzene | 0.273 mmol, 0.044 g | N(=[N+]=[N-])CCCC1=CC=CC=C1 | C9H11N3
product | 4-{3-[1-(3-Phenyl-propyl)-1H-[1,2,3]triazol-4-yl]-propyl}-1H-imidazol-2-ylamine hydrochloride | 0.0318 g, 34% | Cl.C1(=CC=CC=C1)CCCN1N=NC(=C1)CCCC=1N=C(NC1)N | InChI=1S/C17H22N6.ClH/c18-17-19-12-15(20-17)9-4-10-16-13-23(22-21-16)11-5-8-14-6-2-1-3-7-14;/h1-3,6-7,12-13H,4-5,8-11H2,(H3,18,19,20);1H
